US05594021
2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene was prepared by the method of Example 47B using α-(2-benzo[b]thienyl)-3,4-(methylenedioxy)benzyl alcohol (6.2 mmoles, 1.8 g), triethylsilane (6.8 mmoles, 1.1 ml) CH2Cl2 (50 ml) and TFA (12.4 mmoles, 0.95 ml). Recrystallization from hexanes provided 1.2 g (73%) of a light orange solid.

reactant | α-(2-benzo[b]thienyl)-3,4-(methylenedioxy)benzyl alcohol | 6.2 mmoles, 1.8 g | S1C2=C(C=C1C(C1=CC3=C(C=C1)OCO3)O)C=CC=C2 | C16H12O3S
reactant | triethylsilane | 6.8 mmoles, 1.1 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 12.4 mmoles, 0.95 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene | C1OC=2C=C(CC3=CC4=C(S3)C=CC=C4)C=CC2O1 | C16H12O2S
